US06071920
1-[N-(2-nitrophenyl)-2-aminoethyl]-4-(2-methoxyphenyl)piperazine
A mixture of 3.03 g of 2-chloronitrobenzene, 4.52 g of 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine, and 3.18 g of anhydrous potassium carbonate in 30 mL of n-butanol was stirred for 32 h at reflux. After cooling, the mixture was poured into H2O, then extracted with EtOAc and the organic phase dried on Na2SO4. The crude obtained by evaporating the solvent was purified by flash chromatography (EtOAc-petrolium ether 4:6) and the residue obtained after evaporation of the solvents was taken up with Et2O, stirred and filtered giving 2.2 g (31%) of the title compound. Melting point: 117-118° C.

reactant | 2-chloronitrobenzene | 3.03 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine | 4.52 g | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
reactant | potassium carbonate | 3.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | O | H2O
solvent | n-butanol | 30 mL | C(CCC)O | C4H10O
product | 1-[N-(2-nitrophenyl)-2-aminoethyl]-4-(2-methoxyphenyl)piperazine | 2.2 g, 31% | [N+](=O)([O-])C1=C(C=CC=C1)NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C19H24N4O3
